US09169254B2
4-{2-[2-(3-Hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester (77.0 mg, 0.13 mmol) and trifluoro-methanesulfonic acid 5-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-2,2,3,3,4,4-hexafluoro-pentyl ester (58.0 mg, 0.13 mmol) were dissolved in DMF (1 ml). Potassium carbonate (53.8 mg, 0.39 mmol) was added and the mixture was stirred at 60° C. overnight. The reaction mixture was extracted with ethyl acetate, and the organic layer was then washed with saturated brine, dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 4-{2-[2-(3-{5-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-2,2,3,3,4,4-hexafluoro-pentyloxy}-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester (57 mg, 46%).

reactant | 4-{2-[2-(3-Hydroxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | 0.13 mmol, 77.0 mg | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)O)=O)CC1)C)=O | C28H32F3N3O6S
reactant | trifluoro-methanesulfonic acid 5-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-2,2,3,3,4,4-hexafluoro-pentyl ester | 0.13 mmol, 58.0 mg | C(C)(C)(C)OC(=O)N(CCOCC(C(C(COS(=O)(=O)C(F)(F)F)(F)F)(F)F)(F)F)C | C14H20F9NO6S
reactant | Potassium carbonate | 0.39 mmol, 53.8 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 4-{2-[2-(3-{5-[2-(tert-butoxycarbonyl-methyl-amino)-ethoxy]-2,2,3,3,4,4-hexafluoro-pentyloxy}-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3-methyl-benzoic acid tert-butyl ester | 57 mg, 46% | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)OCC(C(C(COCCN(C)C(=O)OC(C)(C)C)(F)F)(F)F)(F)F)=O)CC1)C)=O | C41H51F9N4O9S
